US05374606
n-Butyl lithium (2.5M in hexanes, 176 ml) was added to a stirred solution of 1-bromo-4-chloro-3-fluorobenzene (83.38 g) in dry ether. Stirring was maintained for a further 2.5 hours at -78° C., and the mixture poured onto excess solid carbon dioxide pellets, allowed to reach room temperature and water added. The mixture was washed with ether, acidified, extracted (ethyl acetate) and dried (magnesium sulphate). After evaporation the residue was triturated with petroleum ether to give 4-chloro-3-fluorobenzoic acid (66.4 g) as a white solid, m.p. 192°-192.5° C.

reactant | n-Butyl lithium | 2.5M, 176 ml | C(CCC)[Li]
reactant | 1-bromo-4-chloro-3-fluorobenzene | 83.38 g | BrC1=CC(=C(C=C1)Cl)F | C6H3BrClF
reactant | carbon dioxide | C(=O)=O | CO2
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 4-chloro-3-fluorobenzoic acid | 66.4 g | ClC1=C(C=C(C(=O)O)C=C1)F | C7H4ClFO2
